US08871796B2
N-[1-(3-{1-ethyl-5-[4-(1,3-oxazol-5-yl)phenoxy]-1H-pyrazol-3-yl}phenyl)-1-methylethyl]-2,2,2-trifluoroethanesulfonamide
N-(2-{3-[1-ethyl-5-(4-formylphenoxy)-1H-pyrazol-3-yl]phenyl}propan-2-yl)-2,2,2-trifluoroethanesulfonamide (340 mg, 0.69 mmol, 1 equiv) was added to a suspension of potassium carbonate (237 mg, 1.72 mmol, 2.5 equiv) stirring in MeOH (3.4 mL) at 22° C. 1-[(isocyanomethyl)sulfonyl]-4-methylbenzene isocyanomethyl 4-methylphenyl sulfone (161 mg, 0.82 mmol, 1.2 equiv) was added and the resulting mixture was stirred at 22° C. for 30 minutes. The reaction was diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous ammonium chloride, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography (0-40% EtOAc:Hex). Fractions were identified, combined and concentrated in vacuo but the isolated material was not pure. The residue was then purified by reversed phase HPLC (0-95% acetonitrile:water with 0.025% TFA). Pure fractions were identified, combined, basified with saturated aqueous sodium bicarbonate, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title compound (3% yield). Calc'd (M+1)+: 535.1. Found: 535.1.

reactant | N-(2-{3-[1-ethyl-5-(4-formylphenoxy)-1H-pyrazol-3-yl]phenyl}propan-2-yl)-2,2,2-trifluoroethanesulfonamide | 0.69 mmol, 340 mg, 1 equiv | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C=O)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C23H24F3N3O4S
reactant | potassium carbonate | 1.72 mmol, 237 mg, 2.5 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[(isocyanomethyl)sulfonyl]-4-methylbenzene isocyanomethyl 4-methylphenyl sulfone | 0.82 mmol, 161 mg, 1.2 equiv | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-].[N+](#[C-])CS(=O)(=O)C1=CC=C(C=C1)C | 2C9H9NO2S
solvent | MeOH | 3.4 mL | CO | CH4O
solvent | water | O | H2O
product | N-[1-(3-{1-ethyl-5-[4-(1,3-oxazol-5-yl)phenoxy]-1H-pyrazol-3-yl}phenyl)-1-methylethyl]-2,2,2-trifluoroethanesulfonamide | 3% yield | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C1=CN=CO1)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C25H25F3N4O4S
